US06197970B1
A suspension (1.5 ml) of 2-[N-(2,4,5-trimethoxybenzoyl)amino]-4-(ethoxycarbonyl)-1,3-thiazole (732 mg) and N,N-diisopropyl-N′-methylethylenediamine (1.60 g) in dimethylacetamide was stirred at 140° C. for 5 hours. To the reaction mixture, an aqueous solution of potassium hydrogensulfate, a small quantity of ethyl acetate, and a small quantity of isopropyl ether were added for precipitation of crystals. Crystals so precipitated were collected by filtration and dried to thereby obtain 601 mg of 2-[N-4,5-dimethoxy-2-hydroxybenzoyl)amino]-4-(ethoxycarbonyl)-1,3-thiazole (yield: 86%).

reactant | 2-[N-(2,4,5-trimethoxybenzoyl)amino]-4-(ethoxycarbonyl)-1,3-thiazole | 1.5 ml, 732 mg | COC1=C(C(=O)NC=2SC=C(N2)C(=O)OCC)C=C(C(=C1)OC)OC | C16H18N2O6S
reactant | N,N-diisopropyl-N′-methylethylenediamine | 1.60 g | C(C)(C)N(CCNC)C(C)C | C9H22N2
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(ethoxycarbonyl)-1,3-thiazole | yield: 86% | C(C)OC(=O)C=1N=CSC1 | C6H7NO2S
